US08536394B2
The acetone from the step (b) is reacted with hydrogen and benzene to give cumene.

reactant | acetone | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cumene | C1(=CC=CC=C1)C(C)C | C9H12
